US06919355B2
d) 6-Hydroxy-1H-benzoimidazole-2-carboxylic acid
A mixture of 26.0 g (105 mmol) of 6-methoxy-1H-benzoimidazole-2-carboxylic acid butilamide and 780 ml of 48% aqueus hydrobromic acid is stirred at 110° C. for 8 h, then refluxed for 12 h. The mixture is cooled to room temperature, the precipitated product is filtered off, washed with water until pH neutral and dried to yield 14.3 g (76.2%) of the title compound. Mp.: 206-207° C. (water).

reactant | 6-methoxy-1H-benzoimidazole-2-carboxylic acid | 105 mmol, 26.0 g | COC=1C=CC2=C(NC(=N2)C(=O)O)C1 | C9H8N2O3
solvent | hydrobromic acid | 780 ml | Br | BrH
product | 6-Hydroxy-1H-benzoimidazole-2-carboxylic acid | 14.3 g, 76.2% | OC=1C=CC2=C(NC(=N2)C(=O)O)C1 | C8H6N2O3
